US04684648
To ethyl 6,7-difluoro-1-(4-methoxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.70 g) is added 48% hydrobromic acid (8 ml), and the mixture is stirred at 100°-110° C. for 3 hour. After cooling, the precipitated crystals are separated by filtration, washed with water and recrystallized from dichloromethane-ethanol to give 6,7-difluoro-1-(4-hydroxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.57 g) as colorless needles, m.p. 288°-290° C.

reactant | ethyl 6,7-difluoro-1-(4-methoxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.70 g | FC=1C=C2C(C(=CN(C2=CC1F)C1=CC=C(C=C1)OC)C(=O)OCC)=O | C19H15F2NO4
reactant | hydrobromic acid | 8 ml | Br | BrH
product | 6,7-difluoro-1-(4-hydroxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.57 g | FC=1C=C2C(C(=CN(C2=CC1F)C1=CC=C(C=C1)O)C(=O)O)=O | C16H9F2NO4
